US04515813
1-N-sec-heptyl-3-N-n-octyl-n-octadecylcarbamyl-2-S-allyl isothiourea
The procedure and equipment were the same as in Example 26. 1.9 g (0.006 mole) 1-sec-heptyl-3-n-octyl-2-S-allyl isothiourea was mixed with 25 ml of tetrahydrofuran to which 1.77 g (0.006 mole) n-octadecylisocyanate was added to the mixture. The reaction mixture was then stirred at ambient temperature overnight and then vacuum evaporated to produce 3.79 g (100 weight percent of theory yield) of a clear liquid having a nD30 of 1.4769. The product was identified as the title product by IR and NMR spectra analyses. Compound No. 144 in Table I.

reactant | 1-sec-heptyl-3-n-octyl-2-S-allyl isothiourea | 0.006 mole, 1.9 g | C(C)(CCCCC)NC(SCC=C)=NCCCCCCCC | C19H38N2S
reactant | n-octadecylisocyanate | 0.006 mole, 1.77 g | C(CCCCCCCCCCCCCCCCC)N=C=O | C19H37NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-N-sec-heptyl-3-N-n-octyl-n-octadecylcarbamyl-2-S-allyl isothiourea | C(C)(CCCCC)N(C(SCC=C)=NCCCCCCCC)C(NCCCCCCCCCCCCCCCCCC)=O | C38H75N3OS
